US07829580B2
(4R)-(E)-1-[(1RS)-1-(2-Fluorophenyl)-2-methoxy-2-oxoethyl]-3-({1-[2-(ethoxycarbonyl)ethyl]-1H-pyrazol-3-yl}methylidene) 4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 5-11)
Hydrogen chloride was passed through a solution of (4R)-(E)-4-(acetylsulfanyl)-1-[(1RS)-1-(2-fluorophenyl)-2-methoxy-2-oxoethyl]-3-({1-[2-(ethoxycarbonyl)ethyl]-1H-pyrazol-3-yl}methylidene)piperidine (223.8 mg) in methanol (6 ml) while stirring at 0° C. and the sealed mixture was stirred at room temperature for 7 hours. The solvent and excess hydrogen chloride were evaporated under reduced pressure and the residue was purified by silica gel chromatography using methanol and dichloromethane (3:97 to 15:85, v/v) as eluents to afford the title compound (213.9 mg, yield: 99%) as a colourless amorphous solid.

reactant | Hydrogen chloride | Cl | ClH
reactant | (4R)-(E)-4-(acetylsulfanyl)-1-[(1RS)-1-(2-fluorophenyl)-2-methoxy-2-oxoethyl]-3-({1-[2-(ethoxycarbonyl)ethyl]-1H-pyrazol-3-yl}methylidene)piperidine | 223.8 mg | C(C)(=O)S[C@H]1/C(/CN(CC1)C(C(=O)OC)C1=C(C=CC=C1)F)=C/C1=NN(C=C1)CCC(=O)OCC | C25H30FN3O5S
solvent | methanol | 6 ml | CO | CH4O
product | (4R)-(E)-1-[(1RS)-1-(2-Fluorophenyl)-2-methoxy-2-oxoethyl]-3-({1-[2-(ethoxycarbonyl)ethyl]-1H-pyrazol-3-yl}methylidene) 4-sulfanylpiperidine hydrochloride | 213.9 mg, yield: 99% | Cl.FC1=C(C=CC=C1)C(C(=O)OC)N1C\C(\[C@@H](CC1)S)=C/C1=NN(C=C1)CCC(=O)OCC | InChI=1S/C23H28FN3O4S.ClH/c1-3-31-21(28)10-13-27-12-8-17(25-27)14-16-15-26(11-9-20(16)32)22(23(29)30-2)18-6-4-5-7-19(18)24;/h4-8,12,14,20,22,32H,3,9-11,13,15H2,1-2H3;1H/b16-14+;/t20-,22?;/m1./s1
